US08497264B2
To a solution of ethyl 2-(7-bromo-3-chloro-5-hydroxy-5H-chromeno[2,3-c]pyridin-5-yl)acetate (38.5 g, 97 mmol) in toluene (400 ml) was added azidotrimethylsilane (38.4 ml, 290 mmol) followed by (diethyloxonio)trifluoroborate (24.48 ml, 193 mmol) under an atmosphere of nitrogen. The reaction mixture was stirred at RT for 16 hours. The reaction mixture was quenched with MeOH (200 mL) and diluted with EtOAc. The organic phase was separated, washed with saturated aqueous sodium bicarbonate solution and brine. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to afford ethyl 2-(5-azido-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)acetate (40.82 g) which was used in the next step without further purification.

reactant | ethyl 2-(7-bromo-3-chloro-5-hydroxy-5H-chromeno[2,3-c]pyridin-5-yl)acetate | 97 mmol, 38.5 g | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)(O)CC(=O)OCC | C16H13BrClNO4
reactant | azidotrimethylsilane | 290 mmol, 38.4 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | (diethyloxonio)trifluoroborate | 193 mmol, 24.48 ml | C(C)[O+](CC)[B-](F)(F)F | C4H10BF3O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(5-azido-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)acetate | 40.82 g | N(=[N+]=[N-])C1(C2=CC(=CC=C2OC=2C=NC(=CC21)Cl)Br)CC(=O)OCC | C16H12BrClN4O3
